US08809525B2
5-Phenyl-6-[3-(trifluoromethoxy)phenoxy]-1,2,4-triazin-3-amine (22 mg, 3%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and 3-(trifluoromethoxy)phenol (0.42 g, 2.39 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-(trifluoromethoxy)phenol | 2.39 mmol, 0.42 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
product | 5-Phenyl-6-[3-(trifluoromethoxy)phenoxy]-1,2,4-triazin-3-amine | 22 mg, 3% | C1(=CC=CC=C1)C=1N=C(N=NC1OC1=CC(=CC=C1)OC(F)(F)F)N | C16H11F3N4O2
